US07622619B2
The 2-(t-butyl)anthracene (6.11g, 26.07 mmol) was placed into a 250 mL round bottom flask and was dissolved in dimethylformamide (80 mL) and was cooled on an ice bath. The N-bromosuccinamide (9.28g, 52.15 mmol) was dissolved in dimethylformamide (20 mL) and was added slowly to the reaction. After addition, the reaction was allowed to come to room temperature and was stirred for 3 hours. The mixture was poured into water (500 mL) and the solid collected, washed with water and then methanol. The product was collected, dried and then used directly in the next step. The 2-(t-butyl)-9,10-dibromoanthracene (9.8g, 24.99 mmol) was placed into a 250 mL round bottom flask along with phenyl boronic acid (6.7g, 54.97 mmol), toluene (100 mL), ethanol (10 mL) and 2.0M aqueous potassium carbonate (75 mL). The reaction was purged with argon for 15 minutes and then Pd(PPh3)4 (0.29g) was added. The reaction was heated at reflux for 16 hours. The reaction was cooled and the organic layer was collected and washed with aqueous 5% HCI and then saturated aqueous brine solution. The organic layer was collected, dried and concentrated under reduced pressure. The compound was purified by flash chromatography with hexane and then dichloromethane which eluted the compound. Further purification was achieved by sublimation at 260° C. to give >99% purity of 2-tert-butyl-9,10-diphenylanthracene. This compound and its structure were confirmed by proton NMR analysis.

reactant | 2-(t-butyl)anthracene | 26.07 mmol, 6.11g | C(C)(C)(C)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C18H18
reactant | N-bromosuccinamide | 52.15 mmol, 9.28g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | 2-(t-butyl)-9,10-dibromoanthracene | 24.99 mmol | C(C)(C)(C)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)Br)Br | C18H16Br2
reactant | phenyl boronic acid | 54.97 mmol, 6.7g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 2.0M, 75 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 mL | O | H2O
product | 2-tert-butyl-9,10-diphenylanthracene | C(C)(C)(C)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H26
